US06274588B1
To a solution of 0.40 g (0.73 mmol) methanesulfonic acid 5-[(3,5-bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-phenyl-pyrimidin-2-ylmethyl ester in 5 ml CH2Cl2 1 ml 5.6 m dimethylamin-solution in ethanol were added. The reaction mixture was stirred for 16 hrs. at RT. The reaction mixture was poured into H2O and extracted three times with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 20:1) to give 0.33 g (90%) 2-dimethylaminomethyl-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a colorless oil, MS (ISP): 497.2 (M+H+).

reactant | methanesulfonic acid 5-[(3,5-bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-phenyl-pyrimidin-2-ylmethyl ester | 0.73 mmol, 0.40 g | FC(C=1C=C(CN(C(=O)C=2C(=NC(=NC2)COS(=O)(=O)C)C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C23H19F6N3O4S
reactant | dimethylamin | CNC | C2H7N
reactant | H2O | O | H2O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 2-dimethylaminomethyl-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.33 g, 90% | FC(C=1C=C(CN(C(=O)C=2C(=NC(=NC2)CN(C)C)C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C24H22F6N4O
